US08633322B2
A 500 mL round bottom flask was charged with (S)-2-aminobutanoic acid (5.0 g, 0.048 mol) and dichloromethane (170 mL). The resulting mixture was cooled using an ice/water bath, trifluoroacetic anhydride (8.8 mL, 0.063 mol) was added slowly and the resulting mixture stirred at room temperature for 18 h. The resulting mixture was then concentrated in vauco to yield 2-(S)-(2,2,2-trifluoroacetylamino)-butyric acid as an oil, which was used in the next step without further purification.

reactant | (S)-2-aminobutanoic acid | 0.048 mol, 5.0 g | N[C@H](C(=O)O)CC | C4H9NO2
reactant | trifluoroacetic anhydride | 0.063 mol, 8.8 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 170 mL | ClCCl | CH2Cl2
product | 2-(S)-(2,2,2-trifluoroacetylamino)-butyric acid | FC(C(=O)N[C@H](C(=O)O)CC)(F)F | C6H8F3NO3
